US06699852B2
(7bR,11aS)-6-(2,4-dichlorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole
Using 2,4-dichlorophenyl boronic acid and following the procedures described in EXAMPLE 9, tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate was converted into the title compound of EXAMPLE 13. 1H NMR (CDCl3, 300 MHz): δ 7.19 (m, 3H), 6.93 (s, 1H), 6.83 (s, 1H), 3.78 (m, 2H), 3.59 (m, 1H), 3.41 (m, 1H), 3.19 (m, 2H), 3.0 (m, 2H), 2.82 (m, 4H), 2.58 (m, 1H), 1.80 (m, 2H) LRMS (ES+): 391 (M+H)+.

reactant | 2,4-dichlorophenyl boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCN(C3)C(=O)OC(C)(C)C | C19H25BrN2O2S
product | (7bR,11aS)-6-(2,4-dichlorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCNC3 | C20H20Cl2N2S
